US07238808B2
5-[7-Cyclopropyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-N-(2-hydroxy-1,1-dimethyl-ethyl)-2-methoxy-benzenesulfonamide
The title compound was prepared from 7-cyclopropyl-3-ethynyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.7) (82 mg, 0.25 mmol) and 5-bromo-N-(2-hydroxy-1,1-dimethyl-ethyl)-2-methoxy-benzenesulfonamide (85 mg, 0.25 mmol) (Example B.7) according to general procedure II. Obtained as a yellow solid (61 mg, 42%). MS (ISP) 585.3 [(M+H)+]; mp 192–195° C.

reactant | 7-cyclopropyl-3-ethynyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 0.25 mmol, 82 mg | C1(CC1)C1=CC(=NC=2N1N=CC2C#C)C2=CC=C(C=C2)C(F)(F)F | C18H12F3N3
reactant | 5-bromo-N-(2-hydroxy-1,1-dimethyl-ethyl)-2-methoxy-benzenesulfonamide | 0.25 mmol, 85 mg | BrC=1C=CC(=C(C1)S(=O)(=O)NC(CO)(C)C)OC | C11H16BrNO4S
product | 5-[7-Cyclopropyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-N-(2-hydroxy-1,1-dimethyl-ethyl)-2-methoxy-benzenesulfonamide | C1(CC1)C1=CC(=NC=2N1N=CC2C#CC=2C=CC(=C(C2)S(=O)(=O)NC(CO)(C)C)OC)C2=CC=C(C=C2)C(F)(F)F | C29H27F3N4O4S
